US07897600B2
3-(4-Chloro-2-fluorobenzyl)-N-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazol-3-yl)-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-6-amine
Combine 4-((6-chloro-3-(4-chloro-2-fluorobenzyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)morpholin (0.36 g, 0.88 mmol), 1-(4-methoxybenzyl)-5-methyl-1H-pyrazol-3-amine (0.248 g, 1.3 equiv.), potassium carbonate (0.30 g, 2.5 equiv.), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (0.076 g, 0.15 equiv.), water (2 mL), and 1,4-dioxane (20 mL) in a round bottom flask. Degas thoroughly with nitrogen then add bis(dibenzylideneacetone)palladium (0.10 g, 0.2 equiv.). Attach a reflux condenser and place under nitrogen. Heat the reaction at reflux overnight. Pass reaction through a Celite plug. Wash the plug with EA. Transfer to a separatory funnel and wash with water. Wash the organic layer with aqueous sodium chloride, and dry over anhydrous magnesium sulfate. Filter and concentrate in vacuo. Purify on silica gel (EA→10% methanol:EA) to give the title compound (0.447 g, 86%) as a pale yellow solid. LCMS (4 min)=590.2, 591.2, M+1.

reactant | 4-((6-chloro-3-(4-chloro-2-fluorobenzyl)-2-methylimidazo[1,2-b]pyridazin-8-yl)methyl)morpholin | 0.88 mmol, 0.36 g | ClC=1C=C(C=2N(N1)C(=C(N2)C)CC2=C(C=C(C=C2)Cl)F)CN2CCOCC2 | C19H19Cl2FN4O
reactant | 1-(4-methoxybenzyl)-5-methyl-1H-pyrazol-3-amine | 0.248 g, 1.3 equiv. | COC1=CC=C(CN2N=C(C=C2C)N)C=C1 | C12H15N3O
reactant | potassium carbonate | 0.30 g, 2.5 equiv. | C([O-])([O-])=O.[K+].[K+]
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.076 g, 0.15 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
catalyst | bis(dibenzylideneacetone)palladium | 0.10 g, 0.2 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 3-(4-Chloro-2-fluorobenzyl)-N-(1-(4-methoxybenzyl)-5-methyl-1H-pyrazol-3-yl)-2-methyl-8-(morpholinomethyl)imidazo[1,2-b]pyridazin-6-amine | 0.447 g, 86% | ClC1=CC(=C(CC2=C(N=C3N2N=C(C=C3CN3CCOCC3)NC3=NN(C(=C3)C)CC3=CC=C(C=C3)OC)C)C=C1)F | C31H33ClFN7O2
